US06197959B1
A solution of 0.88 g (1.25 mmol) of (3R,4R)-3-[1-(2-acetylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester in 9 ml of 1,2-dichloroethane was treated with 0.62 g (2.75 mmol, 2.2 equiv.) of anhydrous zinc bromide. The suspension was stirred for 2 h at 50° C. under Argon atmosphere. Subsequently, it was poured into a mixture of 100 ml of ice/water and 10 ml of sat. sodium bicarbonate solution. The aqueous phase was extracted five times with 50 ml of ethyl acetate. The combined organic phases were washed three times with 20 ml of water, dried over magnesium sulphate, evaporated under reduced pressure and dried in a high vacuum. The thus-obtained crude product was purified by chromatography on silica gel using a 100:10:1 v/v/v mixture of dichloromethane/methanol/28% ammonium hydroxide solution as the eluent and yielded 0.36 g (0.60 mmol, 48.0% of theory) of (3R,4R)-N-[2-[7-[4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl]-3,4-dihydro-2H-quinolin-1-yl]-ethyl]-acetamide as a light yellow oil; MS: 602 (M+H)+.

reactant | (3R,4R)-3-[1-(2-acetylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.25 mmol, 0.88 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCNC(C)=O | C41H55N3O7
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 9 ml | ClCCCl | C2H4Cl2
catalyst | zinc bromide | 2.75 mmol, 0.62 g, 2.2 equiv. | [Br-].[Zn+2].[Br-]
product | (3R,4R)-N-[2-[7-[4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl]-3,4-dihydro-2H-quinolin-1-yl]-ethyl]-acetamide | 0.60 mmol, 0.36 g, 48.0% | COC1=C(COCCCOC2=CC=C(C=C2)[C@@H]2[C@H](CNCC2)OCC2=CC=C3CCCN(C3=C2)CCNC(C)=O)C=CC=C1 | C36H47N3O5
